US07582773B2
Step 3: Synthesis of 9-Benzyl-6-(4-methoxy-phenyl)-2,3,4,9-tetrahydro-1H-carbazole.
The desired product was prepared using a procedure similar to step 3 of example 3. Thus, 9-benzyl-6-bromo-2,3,4,9-tetrahydro-1H-carbazole (2.217 g, 6.516 mmol) was reacted with aqueous 2M K2CO3 (6.5 ml), 4-methoxyphenylboronic acid (1.188 g, 7.819 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.106 g, 0.130 mmol) in dioxane (65 ml) to give the product (1.94 g, 5.28 mmol, 81%) as a viscous brown oil. 1H NMR (DMSO-d6) δ 1.79-1.86 (m, 4H), 2.63-2.71 (m, 4H), 3.78 (s, 3H), 5.33 (s, 2H), 6.98 (d, J=8.7 Hz, 2H), 7.03 (d, J=7.5 Hz, 2H), 7.21 (t, J=7.0 Hz, 1H), 7.25-7.30 (m, 3H), 7.38 (d, J=8.6 Hz, 1H), 7.56-7.58 (m, 3H); [ESI(+)], m/z 368 (M+H)+.

reactant | 9-benzyl-6-bromo-2,3,4,9-tetrahydro-1H-carbazole | 6.516 mmol, 2.217 g | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2CCCCC12)Br | C19H18BrN
reactant | K2CO3 | 2M, 6.5 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxyphenylboronic acid | 7.819 mmol, 1.188 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | dichloromethane | 0.130 mmol, 0.106 g | ClCCl | CH2Cl2
solvent | dioxane | 65 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 9-Benzyl-6-(4-methoxy-phenyl)-2,3,4,9-tetrahydro-1H-carbazole | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2CCCCC12)C1=CC=C(C=C1)OC | C26H25NO
